US04880781
Boc-Ile-AMP (0.32 g, 1.0 mmole) is stirred in 10 ml of TFA-CH2Cl2 (1:1, v/v) for 30 minutes. TFA and CH2Cl2 are removed in vacuo and the residue is held under vacuum overnight. The residue is extracted with EtOAc and 5 ml of saturated aqueous NaHCO3. The organic layers are filtered through Na2SO4 and concentrated. The crude product is chromatographed on silica gel using 4% MeOH-CH2Cl2 (NH4OH sat'd) to give 0.194 g (88%) of Ile-AMP.

reactant | Boc-Ile | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
solvent | TFA CH2Cl2 | 10 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Ile | 0.194 g, 88% | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
